US08865704B2
trans-4-[4-(6-Methoxy-3-methyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarbonyl]-piperazine-1-carboxylic acid tert-butyl ester
Triethyl amine (0.39 ml, 2.77 mmol) was added to solution of HATU (1.05 g, 2.77 mmol) and trans-4-(6-Methoxy-3-methyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarboxylic acid (0.8 g, 2.5 mmol) in DMF (15 ml). The mixture was stirred at room temperature for 20 minutes and then tert-butyl-1-piperazinecarboxylate (0.47 g, 2.52 mmol) was added. The mixture was stirred at room temperature overnight, the solvent was removed under reduced pressure and the crude product was dissolved in DCM (50 ml). The organic solution was washed with HCl 1M (2×40 ml) and then with a saturated solution of NaHCO3. The organic solution was dried over Na2SO4, filtered and the solvent removed. Purification by silica column using cyclohexane/EtOAc (8/1) as eluent gave the titled compound (960 mg, 78%).

reactant | Triethyl amine | 2.77 mmol, 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | HATU | 2.77 mmol, 1.05 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | trans-4-(6-Methoxy-3-methyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarboxylic acid | 2.5 mmol, 0.8 g | COC=1C=CC2=C(N(C(N2C)=O)C[C@@H]2CC[C@H](CC2)C(=O)O)C1 | C17H22N2O4
reactant | tert-butyl-1-piperazinecarboxylate | 2.52 mmol, 0.47 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | trans-4-[4-(6-Methoxy-3-methyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 960 mg, 78% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(N(C2=C1C=C(C=C2)OC)C)=O | C26H38N4O5
